US04053472
17.2 g. of 4-chloro-3-nitrotoluene, 9 g. of 2-dimethylaminoethylamine, and 21.5 g. of anhydrous sodium carbonate are agitated for 7 hours at 135° C. Excess starting material is removed by steam distillation. The distillation residue is extracted with chloroform, the chloroform solutions are dried, filtered, and concentrated under a vacuum. By distilling the residue at 0.05 mm Hg and 133°-137° C., 10.5 g. of 3-nitro-4-(2-dimethylaminoethylamino)-toluene is obtained, m.p. 59° C. 3.5 g. of this compound is reduced as described in Example 27, and 3 g. of crude 3-amino-4-(2-dimethylaminoethylamino)-toluene is thus obtained. 400 mg. of this compound is reacted with 400 mg. of the ethyl ester of 5-nitro-1-methyl-2-imidazolyliminocarboxylic acid, as described in Example 1, thus producing 172 mg. of 1-(2-dimethylaminoethyl)-5-methyl-2-(5-nitro-1-methyl-2-imidazolyl)-benzimidazole hydrochloride, m.p. 249°-251° C.

reactant | 4-chloro-3-nitrotoluene | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | 2-dimethylaminoethylamine | CN(CCN)C | C4H12N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-nitro-4-(2-dimethylaminoethylamino)-toluene | [N+](=O)([O-])C=1C=C(C=CC1NCCN(C)C)C | C11H17N3O2
